US05070089
Methyl 4-(2,3,4-triacetoxybenzyl)-1-piperazinecarbodithioate (Com. No. 34)
In 520 ml of chloroform was suspended 50 g of methyl 4-(2,3,4-trihydroxybenzyl)-1-piperazinecarbodithioate, and to the suspension was dropwise added under chilling with ice 97.3 g of acetic anhydride over a period of 15 min. The mixture was then stirred for one hour. The reaction mixture was washed successively with water and a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The sodium sulfate was removed by filtration, and the filtrate was concentrated under reduced pressure. The residual oil was crystallized by addition of 250 ml of ethyl acetate. After stirring for one hour, the crystals were collected by filtration. The crystals were washed with ethyl acetate to give 48.8 g of the desired compound as white crystals, m.p. 148°-150° C. (decomp.), yield 69.7%.

reactant | methyl 4-(2,3,4-trihydroxybenzyl)-1-piperazinecarbodithioate | 50 g | OC1=C(CN2CCN(CC2)C(=S)SC)C=CC(=C1O)O | C13H18N2O3S2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 520 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-(2,3,4-triacetoxybenzyl)-1-piperazinecarbodithioate | 48.8 g, yield 69.7% | C(C)(=O)OC1=C(CN2CCN(CC2)C(=S)SC)C=CC(=C1OC(C)=O)OC(C)=O | C19H24N2O6S2
